US05073559
A mixture of 4-methoxy-2-propoxybenzamide (15 g) and triethyloxonium tetrafluoroborate (0.08 mol) in dichloromethane (180 ml) was stirred at ambient temperature for about 60 hours. The reaction mixture was evaporated under reduced pressure and the residue was washed with diethyl ether to yield crude ethyl 4-methoxy-2-propoxybenzimidate tetrafluoroborate, 20.52 g which was used without further purification.

reactant | 4-methoxy-2-propoxybenzamide | 15 g | COC1=CC(=C(C(=O)N)C=C1)OCCC | C11H15NO3
reactant | triethyloxonium tetrafluoroborate | 0.08 mol | F[B-](F)(F)F.C(C)[O+](CC)CC
solvent | dichloromethane | 180 ml | ClCCl | CH2Cl2
product | ethyl 4-methoxy-2-propoxybenzimidate tetrafluoroborate | F[B-](F)(F)F.COC1=CC(=C(C(OCC)=N)C=C1)OCCC | InChI=1S/C13H19NO3.BF4/c1-4-8-17-12-9-10(15-3)6-7-11(12)13(14)16-5-2;2-1(3,4)5/h6-7,9,14H,4-5,8H2,1-3H3;/q;-1
